US09120761B2
(g) tart-Butyl 4-(4-((4-(2-(2-amino-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)-3-methoxyphenyl)piperidine-1-carboxylate (I23)
tert-Butyl 4-(3-methoxy-4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I21) (3.62 g, 5.76 mmol) was dissolved in THF (200 mL) then a solution of lithium hydroxide monohydrate (1.21 g, 28.8 mmol) in water (100 mL) was added. The resulting mixture was stirred for 18 hours at room temperature then concentrated. The residue was poured into saturated sodium bicarbonate (200 mL) and water (300 mL). The resulting mixture was extracted with ethyl acetate (3×300 mL) and the combined organic phases were washed with brine, dried over sodium sulfate and evaporated. The residue was evaporated from toluene then dissolved in THF (70 mL) and DMF (12 mL) at 30° C. under nitrogen. The mixture was stirred vigorously while HOBT (1.012 g, 7.49 mmol), EDCl.HCl (1.330 g, 7.49 mmol) and DIPEA (5.02 mL, 28.8 mmol) were added. After five minutes ammonium carbonate (2.77 g, 28.8 mmol) was added and stirring continued for 16 hours. The resulting mixture was poured into saturated sodium bicarbonate (300 mL) and extracted with ethyl acetate (3×300 mL). The combined organic phases were washed with 1:1 saturated brine: water (2×300 mL), brine (300 mL), dried over sodium sulfate and evaporated. The residue was chromatographed (120 g silica cartridge, 0-80% ethyl acetate/petroleum benzine 40-60° C.) to give the title compound (I23) (2.698 g, 76% over two steps) as a white solid; 1H NMR (400 MHz, CDCl3) δ 8.54 (s, 1H), 8.28 (d, J=8.3 Hz, 1H), 7.86 (s, 1H), 7.29-7.22 (m, overlaps with residual CHCl3), 6.86 (dd, J=8.3, 1.9 Hz, 1H), 6.76 (d, J=1.9 Hz, 1H), 5.37 (d, J=15.9 Hz, 2H), 4.25 (s, 2H), 3.93 (s, 3H), 3.71 (s, 2H), 3.18-3.04 (m, 4H), 2.81 (t, J=12.5 Hz, 2H), 2.64 (tt, J=12.0, 3.4 Hz, 1H), 1.84 (d, J=12.9 Hz, 2H), 1.69-1.55 (m, overlaps with water), 1.49 (s, 9H). LCMS Method C: rt 6.59 min; m/z 614.2 [M+H]+, 558.1 [M-tBu+2H]+; m/z 612.2 [M−H]−.

reactant | tert-Butyl 4-(3-methoxy-4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 5.76 mmol, 3.62 g | COC=1C=C(C=CC1NC1=NC=C(C(=N1)CCC1=C(C=CC=C1)CC(=O)OC)C(F)(F)F)C1CCN(CC1)C(=O)OC(C)(C)C | C33H39F3N4O5
reactant | lithium hydroxide monohydrate | 28.8 mmol, 1.21 g | O.[OH-].[Li+]
reactant | HOBT | 7.49 mmol, 1.012 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | CCN=C=NCCCN(C)C.Cl
reactant | HCl | 7.49 mmol, 1.330 g | Cl | ClH
reactant | DIPEA | 28.8 mmol, 5.02 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | ammonium carbonate | 28.8 mmol, 2.77 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | sodium bicarbonate | 300 mL | C([O-])(O)=O.[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | Butyl 4-(4-((4-(2-(2-amino-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)-3-methoxyphenyl)piperidine-1-carboxylate | NC(CC1=C(CCC2=NC(=NC=C2C(F)(F)F)NC2=C(C=C(C=C2)C2CCN(CC2)C(=O)OCCCC)OC)C=CC=C1)=O | C32H38F3N5O4
